US08293909B2
Step 8: Preparation of 2-(4-fluorophenyl)-5-hydroxy-N-methylfuro[2,3-c]pyridine-3-carboxamide.
Pd/C (178 mg, 0.084 mmol) (10%; 50% wet) was added to a stirring solution of 5-(benzyloxy)-2-(4-fluorophenyl)-N-methylfuro[2,3-c]pyridine-3-carboxamide (630 mg, 1.674 mmol) in THF (83 ml) at room temperature. It was placed under an atmosphere of H2 and allowed to stir for 20 minutes after which a precipitate had formed. The reaction was purged with N2 and diluted with MeOH until all solids had dissolved. The mixture was filtered through a pad of celite washing with MeOH and the filtrate was concentrated to give the expected product 2-(4-fluorophenyl)-5-hydroxy-N-methylfuro[2,3-c]pyridine-3-carboxamide (460 mg, 1.53 mmol, 91% yield) consistent by LCMS and NMR. 1H NMR (400 MHz, DMSO-d6) δ ppm 8.30-8.40 (2H, m), 7.98 (2H, dd, J=8.78, 5.77 Hz), 7.35-7.45 (3H, m), 6.61 (1H, s), 2.81 (3H, d, J=4.52 Hz). LC-MS retention time: 0.847 min; m/z (MH+): 287. LC data was recorded on a Shimadzu LC-10AS liquid chromatograph equipped with a Waters SunFire 5 u C18 4.6×50 mm column using a SPD-10AV UV-Vis detector at a detector wave length of 220 nM. The elution conditions employed a flow rate of 5 ml/min, a gradient of 100% solvent A/0% solvent B to 0% solvent A/100% solvent B, a gradient time of 3 min, a hold time of 1 min, and an analysis time of 4 min where solvent A was 10% acetonitrile/90% H2O/0.1% trifluoroacetic acid and solvent B was 10% H2O/90% acetonitrile/0.1% trifluoroacetic acid. MS data was determined using a Micromass Platform for LC in electrospray mode.

reactant | 5-(benzyloxy)-2-(4-fluorophenyl)-N-methylfuro[2,3-c]pyridine-3-carboxamide | 1.674 mmol, 630 mg | C(C1=CC=CC=C1)OC=1C=C2C(=CN1)OC(=C2C(=O)NC)C2=CC=C(C=C2)F | C22H17FN2O3
solvent | THF | 83 ml | C1CCOC1 | C4H8O
catalyst | Pd/C | 0.084 mmol, 178 mg | [Pd] | Pd
product | 2-(4-fluorophenyl)-5-hydroxy-N-methylfuro[2,3-c]pyridine-3-carboxamide | 1.53 mmol, 460 mg, 91% yield | FC1=CC=C(C=C1)C1=C(C=2C(=CN=C(C2)O)O1)C(=O)NC | C15H11FN2O3
